US04507497
4,4'-bis(N-2-carbomethoxyethyl-N-methylamino)benzil was prepared according to the procedure of Tuzun, et al. (Org. Syn., 41, 1 (1961)). Charges were 86.4 g of N-2-carbomethoxyethyl-N-methylaniline (prepared according to the procedure in Example 1), 41.7 g of anhydrous aluminum chloride and 6.7 ml of oxalyl chloride. After the addition of 157 ml of water the reaction mixture was extracted three times with 100 ml portions of chloroform. The chloroform extract was washed with water, dried over anhydrous sodium sulfate and filtered. The solvent was removed on a steam bath and the dark brown residue was chromatographed on Activity I basic alumina (the most active and dried form, in terms of adsorbing power, of chromatographic grade alumina) using a 1:1 mixture of ethyl acetate and heptane. Fractions containing a new product which appeared to be free of starting material by TLC (thin layer chromatography) were combined and concentrated to a brown gum. The combined chromatography fractions were dissolved in 50 ml of 10 percent methanolic sodium hydroxide and refluxed overnight. A tan solid separated which was isolated by filtration, washed with methanol and dried. This material in water had λmax=382 nm and εmax=14,650. This is only one third the extinction coefficient reported for 4,4'-bis(dimethylamino)benzil. No further purification was attempted.

reactant | N-2-carbomethoxyethyl-N-methylaniline | 86.4 g | C(=O)(OC)CCN(C1=CC=CC=C1)C | C11H15NO2
reactant | aluminum chloride | 41.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | oxalyl chloride | 6.7 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | water | 157 ml | O | H2O
product | 4,4'-bis(N-2-carbomethoxyethyl-N-methylamino)benzil | C(=O)(OC)CCN(C)C1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)N(CCC(=O)OC)C | C24H28N2O6
